US04281188
30 g (0.092 M) of rac-3-ethyl-5-(o-fluorophenyl)-1,3-dihydro-7-nitro-2H-1,4-benzodiazepin-2-one are dissolved in 200 ml of absolute acetone, treated with 16 g of powdered potassium carbonate and 8 ml of methyl iodide and the mixture is stirred at room temperature. After 1 hour, a further 4 ml of methyl iodide are added and the mixture is stirred for a further 2.5 hours. The undissolved inorganic salts are filtered off under suction and the solution is concentrated. The residue is treated with water, the mixture is extracted with methylene chloride and the extract is dried with sodium sulphate, filtered and concentrated. After crystallisation from ethyl acetate/petroleum ether, there is obtained rac-3-ethyl-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-7-nitro-2H-1,4-benzodiazepin-2-one which melts at 175°-176° C.

reactant | rac-3-ethyl-5-(o-fluorophenyl)-1,3-dihydro-7-nitro-2H-1,4-benzodiazepin-2-one | 0.092 M, 30 g | C(C)C1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=C(C=C2)[N+](=O)[O-])=O | C17H14FN3O3
reactant | potassium carbonate | 16 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 8 ml | CI | CH3I
reactant | methyl iodide | 4 ml | CI | CH3I
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | rac-3-ethyl-5-(o-fluorophenyl)-1,3-dihydro-1-methyl-7-nitro-2H-1,4-benzodiazepin-2-one | C(C)C1C(N(C2=C(C(=N1)C1=C(C=CC=C1)F)C=C(C=C2)[N+](=O)[O-])C)=O | C18H16FN3O3
